US07514566B2
6-Bromoisoquinolin-3-amine (0.57 g, 2.6 mmol) was taken up in 10 mL of THF. NaHMDS (1M in THF (4.7 mL, 4.7 mmol)) was added, and the mixture was stirred for 15 minutes. Boc2O (0.51 g, 2.3 mmol) was then added slowly in 3 mL of THF. The mixture was stirred for 30 minutes. The mixture was then quenched with 5 mL of aq. NH4Cl. The mixture was diluted with 10 mL of water and extracted three times with 10 mL of EtOAc. The combined organic extracts were washed with 15 mL of brine and dried over MgSO4. Filtration and concentration under reduced pressure, followed by flash chromatography on silica gel (2.5% to 20% EtOAc/hexanes) afforded tert-butyl 6-bromoisoquinolin-3-ylcarbamate (0.48 g, 64% yield) as a white solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.93 (s, 1H) 8.16 (s, 1H) 7.93 (s, 1H) 7.71 (d, J=8.80 Hz, 1H) 7.49 (dd, J=8.61, 1.57 Hz, 1H) 1.59-1.53 (m, 9H).

reactant | 6-Bromoisoquinolin-3-amine | 2.6 mmol, 0.57 g | BrC=1C=C2C=C(N=CC2=CC1)N | C9H7BrN2
reactant | NaHMDS | 4.7 mmol, 1M, 4.7 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | Boc2O | 2.3 mmol, 0.51 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | tert-butyl 6-bromoisoquinolin-3-ylcarbamate | 0.48 g, 64% yield | BrC=1C=C2C=C(N=CC2=CC1)NC(OC(C)(C)C)=O | C14H15BrN2O2
